US08859553B2
Step 3. N-(2-Amino-4-(4-methyl-1H-imidazol-1-yl)phenyl)-3-iodo-4-methyl benzamide
A solution of 3-iodo-4-methylbenzoic acid (0.26 g, 1 mmol) in SOCl2 (5 mL) was refluxed for 2 h, and then evaporated in vacuo to remove excess SOCl2. The residue was dissolved in 5 mL anhydrous THF and added to a solution of triethylamine (0.12 g, 1.2 mmol), 2-amino-4-(4-methyl-1H-imidazol-1-yl)aniline (0.18 g, 1 mmol) and DMAP (24 mg) in 5 mL anhydrous THF in dropwise. The result mixture was stirred at rt for 20 hrs, and evaporated in vacuo. The residue was purified by chromatography on silica gel (CH2Cl2/CH3OH 97:3) to give 0.16 g product as a pale yellow solid (37.0%). LC/MS: m/z [M+H]+ 433.0520.

reactant | 3-iodo-4-methylbenzoic acid | 1 mmol, 0.26 g | IC=1C=C(C(=O)O)C=CC1C | C8H7IO2
reactant | triethylamine | 1.2 mmol, 0.12 g | C(C)N(CC)CC | C6H15N
reactant | 2-amino-4-(4-methyl-1H-imidazol-1-yl)aniline | 1 mmol, 0.18 g | NC1=C(N)C=CC(=C1)N1C=NC(=C1)C | C10H12N4
solvent | SOCl2 | 5 mL | O=S(Cl)Cl | Cl2OS
catalyst | DMAP | 24 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(2-Amino-4-(4-methyl-1H-imidazol-1-yl)phenyl)-3-iodo-4-methyl benzamide | 0.16 g, 37.0% | NC1=C(C=CC(=C1)N1C=NC(=C1)C)NC(C1=CC(=C(C=C1)C)I)=O | C18H17IN4O
